US07842685B2
To 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ol (0.715 g, 1.77 mmol) at 0° C. under argon was added 2-chloroacetonitrile (0.67 mL, 10.6 mmol), followed by acetic acid (1.4 mL) and sulfuric acid (0.90 mL). The resulting yellow reaction mixture was warmed to room temperature and stirred for 4 hours, during which LC-MS indicated completion of reaction. The reaction mixture was diluted with CH2Cl2 and washed with saturated NaHCO3 solution and brine; dried (MgSO4). The organic layer was filtered and concentrated in vacuo. ISCO purification with 10% to 40% EtOAc/Hexanes afforded 2-chloro-N-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-yl)acetamide as a white amorphous solid. MS (ESI) m/z: Calculated: 480.0; Observed: 481.1 (M++1).

reactant | 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ol | 1.77 mmol, 0.715 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)(C)O | C24H21FN2OS
reactant | 2-chloroacetonitrile | 10.6 mmol, 0.67 mL | ClCC#N | C2H2ClN
reactant | acetic acid | 1.4 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.90 mL | S(O)(O)(=O)=O | H2O4S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-yl)acetamide | ClCC(=O)NC(C)(C)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C26H23ClFN3OS
